US04030906
An 8.25-ml solution of 37% aqueous formaldehyde (0.099 mol) was added over 5 minutes to a cooled (0° C.) mixture of 10 g (0.066 mol) α,α-dimethyl-2-aminobenzyl alcohol in 50 ml water. The reaction mixture was then diluted with 50 ml benzene and vigorously stirred for 5 minutes. The aqueous layer was separated and extracted with benzene. The benzene layer of the reaction mixture and the benzene extracts were combined, dried over magnesium sulfate and evaporated. The resulting oil was distilled through a short column to give 6.3 g (b.p. 120° -125° C. at 0.1 mm of Hg) of 4,4-dimethyl-1,2-dihydro-4H-3,1-benzoxazine, as a colorless oil. Elemental analysis showed: %C, calc. 73.6, found 68.3: %H, calc. 8.0, found 7.6; %N, calc. 8.6, found 8.6.

reactant | formaldehyde | 0.099 mol | C=O | CH2O
reactant | α,α-dimethyl-2-aminobenzyl alcohol | 0.066 mol, 10 g | CC(C1=C(C=CC=C1)N)(C)O | C9H13NO
solvent | water | 50 ml | O | H2O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 4,4-dimethyl-1,2-dihydro-4H-3,1-benzoxazine | 6.3 g | CC1(OCNC2=C1C=CC=C2)C | C10H13NO
